US08669271B2
4-(5-piperazin-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared by catalytic hydrogenation of 4-[2-(1-tert-butoxycarbonyl-piperidin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-5-yl]-piperazine-1-carboxylic acid benzyl ester in methanol in the presence of 10% Pd/C. LC (method 10): tR=1.28 min; Mass spectrum (ESI+): m/z=389 [M+H]+.

reactant | 4-[2-(1-tert-butoxycarbonyl-piperidin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-5-yl]-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1C=C2C(=CN1)OC(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C29H38N4O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(5-piperazin-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2CCNCC2)O1 | C21H32N4O3
